US05859007
2-(2,4-dioxo-5-pyrid-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide
1.6 mL (1.6 mmol, 1.0 equiv) of 1M NaN(TMS)2 in THF is added dropwise to a solution of 0.40 g (1.6 mmol, 1.0 equiv) of 2,4-dioxo-5-pyrid-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine in 20 mL of DMF at 0° C. After 15 min, a solution of 0.47 g (1.6 mmol, 1.0 equiv) of 2-bromo-N-isopropyl-N-(4-methoxy-phenyl) acetamide in 3 mL of DMF is added dropwise and the resulting green solution is stirred at 0° C. for 25 min. The reaction mixture is poured into 100 mL of H2O and extracted with EtOAc (×2). The organic extract is washed with H2O and brine, dried over MgSO4 and concentrated to a brown oil. Purification by silica gel flash chromatography using EtOAc as eluent gave 0.35 g of the title compound as a light yellow foam: 1H NMR (CDCl3, 300 MHz) δ8.4-6.8 (m, 12H), 5.04 (m, 1H), 4.44 (d, 1H, J=17), 3.94 (d, 1H, J=17), 3.80 (s, 3H), 3.65 (d, 1H, J=12), 3.49 (d, 1H, J=12), 1.11 (d, 6H, J=7); low resolution MS (FAB) m/e 459 (MH+).

reactant | NaN(TMS)2 | 1.6 mmol, 1M, 1.6 mL, 1.0 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2,4-dioxo-5-pyrid-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine | 1.6 mmol, 0.40 g, 1.0 equiv | O=C1CC(N(C2=C(N1)C=CC=C2)C2=NC=CC=C2)=O | C14H11N3O2
reactant | 2-bromo-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 1.6 mmol, 0.47 g, 1.0 equiv | BrCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C12H16BrNO2
reactant | H2O | 100 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-(2,4-dioxo-5-pyrid-2-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.35 g | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=NC=CC=C2)=O | C26H26N4O4
